US04528296
Following the procedure of Example 3, but substituting an equivalent amount of methyl 5-(2-acetylthiomethyl-propionamido)-picolinate, obtained as disclosed in Example 21, for methyl 2-(2-acetylthiomethyl-propionamido)-nicotinate, 5-(2-mercaptomethyl-propionamido)-picolinic acid is obtained; m.p. 175°-177° C., from acetone.

reactant | methyl 5-(2-acetylthiomethyl-propionamido)-picolinate | C(C)(=O)SCC(C(=O)NC=1C=CC(=NC1)C(=O)OC)C | C13H16N2O4S
reactant | methyl 2-(2-acetylthiomethyl-propionamido)-nicotinate | C(C)(=O)SCC(C(=O)NC1=C(C(=O)OC)C=CC=N1)C | C13H16N2O4S
product | 5-(2-mercaptomethyl-propionamido)-picolinic acid | SCC(C(=O)NC=1C=CC(=NC1)C(=O)O)C | C10H12N2O3S
